Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
prednisone / Augmentin / benazepril / Neurontin / nickel / 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
ataxia
 
Major Surgical or Invasive Procedure:
___ guided Lumbar Puncture 

 
History of Present Illness:
Ms. ___ is a ___ year old woman with hypertension,
hyperlipidemia and obstructive sleep apnea who presented to the
ED for evaluation of gait instability for the past 3 months. 
Patient was seen earlier by Dr. ___ and was referred to the
emergency department for possible admission for further workup.  

Per patient her symptoms started back in ___ when she
started noticing that she had trouble walking described as
swaying and falling back intermittently.  Initially symptoms 
were
"once in a while" but for the past 3 months they have
progressively gotten worse to the point that she has to hold 
onto
something at all times to prevent falling.  Per patient she is
able to walk normally but as soon as she stops she would feel
like "somebody is pushing me back" and makes her stumble and
sometimes even fall.  For the past 3 months patient has
experienced at least 3 falls without loss of consciousness. 
Patient was evaluated by her primary care provider who had
recommended to obtain a ___ MRI which was reported as normal
(no report available).  She was then referred to an ORL
specialist who after some testing cleared her and had 
recommended
a neurological evaluation.  For this reason she went to see Dr.
___.  Over the past weeks symptoms continued to got worse
limiting patient's daily activities.  Patient provided some
examples of some of the activities that she can do without a
problem like sitting in her garden, driving her tractor or car. 
Even though she is able to perform his activities as soon as she
stands up or gives a few steps she would then sway/fall to 
either
side or back.  Patient denies any dizziness, vertigo, changes in
her vision, diplopia, focal weakness, numbness/tingling, trouble
talking, swallowing.  Patient denies any similar episodes in the
past.  Patient denies any traumatic events leading to these
symptoms. 

Dietary restrictions: Patient describes eating healthy balanced
diet, does not eat red meat as much, drinks of almond milk

 
Past Medical History:
Hypertension
Hyperlipidemia
Obstructive sleep apnea
Insomnia
 
Social History:
___
Family History:
Brother with ___ disease
Grandfather with ___ disease
Son died in a car accident
Daughter with migraines
 
Physical Exam:
Vitals: T98.2 HR64 BP154/80 RR16 O299% RA 
General:  NAD 
HEENT: NCAT,  no oropharyngeal lesions, neck supple 
___: RR
Pulmonary: Breathing comfortably in room air
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination: 
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline. 

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

   [___] 
 L    5    5    5    5    5    5   5    5    5   5    5    5 
 R    5    5    5    5    5    5   5    5    5   5    5    5 

- Reflexes:  
    [Bic] [Tri] [___] [Quad] [Gastroc] 
  L  2+    2+     2+      2+       1 
  R  2+    2+     2+      2+       1  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS. 
While testing for pronation drift, patient closed her eyes and
immediately fell backwards while sitting.  When asked what does
she feel she refers "just feels like someone is pushing me and I
have to fall"

- Coordination: No dysmetria with finger to nose testing
bilaterally.  Patient has some initial trouble with rapid
alternating movements but corrected herself and was able to
perform right afterwards.

 - Gait: Patient is able to stand up and give a few steps, 
normal
based, good initiation but as soon as she stops she sways
backwards falls.  She would then continue walking holding onto
things but again, if she stops she would fall to one side or the
other mostly backwards.  Patient attempted to do tandem walk but
after the first step she fell to the side and had to hold 
herself
to prevent a fall.  Patient seemed very frustrated about this. 
Romberg positive.
DISCHARGE PHYSICAL EXAMINATION: 
Vitals: Tmax 98.0,  HR61-66 BP ___ 99% RA 
General:  NAD 
HEENT: NCAT,  no oropharyngeal lesions, neck supple 
___: RR
Pulmonary: Breathing comfortably in room air
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination: 
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with full sentences, intact
repetition, and intact verbal comprehension. Naming intact.  No
paraphasias.  No dysarthria. Normal prosody. Able to register 3
objects and recall ___ at 5 minutes. No apraxia. No evidence of
hemineglect. No left-right confusion. Able to follow both 
midline
and appendicular commands. 

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting.
EOMI, with significant direction changing nystagmus on R lateral 
gaze, a few beats of nystagmus on L gaze. No nystagmus on up or 
down gaze.  V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline. 

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

   [___] 
 L    5    5    5    5    5    5   5    5    5   5    5    5 
 R    5    5    5    5    5    5   5    5    5   5    5    5 

- Reflexes:  
    [Bic] [Tri] [___] [Quad] [Gastroc] 
  L  2+    2+     2+      2+       1 
  R  2+    2+     2+      2+       1  
Plantar response flexor bilaterally 

- Sensory: No deficits to light touch, pin, vibration, or 
proprioception
bilaterally.  No extinction to DSS. 

- Coordination: No dysmetria with finger to nose testing
bilaterally, however she is slower with finger tapping with the 
R. She also undershoots on mirroring testing.  Patient has some 
initial trouble with rapid and is slightly slower on the R. 

 - Gait: Patient is able to stand up and give a few steps, 
narrow based, good initiation but as soon as she stops she sways 
and
backwards falls without warning.  
 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 07:35AM    8.3 4.69 14.6 42.9 92 31.1 34.0 13.5 44.6 
166 Import Result 

 
___ 07:05AM    8.5 4.55 13.8 40.6 89 30.3 34.0 13.2 43.0 
176 Import Result 

 
___ 04:30AM    7.2 4.59 13.8 41.8 91 30.1 33.0 13.1 43.3 
171 Import Result 

 
___ 04:30AM    8.0 4.28 13.2 38.8 91 30.8 34.0 13.2 43.2 
152 Import Result 

 
___ 05:45PM    9.4 4.49 13.7 40.6 90 30.5 33.7 12.9 42.5 
154 Import Result 

 
 DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas Im 
___ AbsLymp AbsMono AbsEos AbsBaso 
___ 05:45PM    63.6   28.6 5.9 1.1 0.3     0.5 5.97 2.69 
0.55 0.10 0.03 Import Result 

 
 BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 07:35AM        166   Import Result 

 
___ 07:35AM    11.2 28.8   1.0 Import Result 

 
___ 07:05AM        176   Import Result 

 
___ 07:05AM    10.9 28.1   1.0 Import Result 

 
___ 04:30AM        171   Import Result 

 
___ 04:30AM    11.5 28.9   1.1 Import Result 

 
___ 04:30AM        152   Import Result 

 
___ 04:30AM    11.2 27.7   1.0 Import Result 

 
___ 05:45PM        154   Import Result 

 
___ 05:45PM    11.2 28.6   1.0 Import Result 

 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:35AM    98 14 0.8 142 4.0 ___ Import Result 


 
___ 07:05AM    99 15 0.7 141 3.8 ___ Import 
Result 

 
___ 04:30AM    86 17 0.7 143 3.8 ___ Import Result 


 
___ 04:30AM    ___ 139 3.6 ___ Import Result 


 
___ 05:45PM    150* 12 0.8 140 3.2* ___ Import 
Result 

 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 05:45PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 04:30AM    27 27     70   0.7   Import Result 

 
___ 05:45PM    29 30     73   0.5   Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
Cholest 
___ 07:35AM          9.7 4.0 2.1       Import Result 

 
___ 07:05AM          9.4 4.0 2.2       Import Result 

 
___ 04:30AM          9.3 4.2 2.2       Import Result 

 
___ 04:30AM          9.0 3.4 2.1     139 Import Result 

 
___ 05:45PM      4.3               Import Result 

 
 HEMATOLOGIC VitB12 Folate Ferritn 
___ 04:30AM      >20 178* Import Result 

 
___ 05:45PM    728     Import Result 

 
 DIABETES MONITORING %HbA1c eAG 
___ 03:00PM    5.6 114 Import Result 

 
 LIPID/CHOLESTEROL Triglyc HDL CHOL/HD LDLcalc 
___ 04:30AM    79 59 2.4 64 Import Result 

 
 PITUITARY ___ 
___ 03:00PM    1.4 Import Result 

 
___ 04:30AM    2.7 Import Result 

 
 IMMUNOLOGY ___ 
___ 06:40AM        PND Import Result 

 
___ 03:00PM        LESS THAN  Import Result 

 
___ 04:30AM    <10 NEGATIVE   Import Result 

 
 TOXICOLOGY, SERUM AND OTHER DRUGS ASA Ethanol Acetmnp Bnzodzp 
Barbitr Tricycl 
___ 05:45PM    NEG NEG NEG NEG NEG NEG Import Result 

 
 LAB USE ONLY LtGrnHD GreenHd RedHold 
___ 06:40AM        HOLD Import Result 

 
___ 05:45PM    HOLD     Import Result 

 
___ 05:45PM      HOLD   Import Result 

 
 LAB USE ONLY 
 
IMAGING: 
MR ___ with and without contrast: 
  
1. Study is moderately degraded by motion. 
2. Nonenhancing white matter lesions, as described, suggestive 
of 
microangiopathic changes. Differential considerations include 
sequela of prior 
trauma or infection, history of migraine headaches, inflammatory 
process, and 
microangiopathic changes. 
3. No evidence of acute infarction. 
4.  Paranasal sinus disease , as described. 

CT CHEST: 
1. No evidence of intrathoracic malignancy. 
2. Multiple sub-3mm micronodules.  For incidentally detected 
multiple solid 
pulmonary nodules smaller than 6mm, no CT follow-up is 
recommended in a 
low-risk patient, and an optional CT follow-up in 12 months is 
recommended in 
a high-risk patient. 
3. Moderate coronary atherosclerosis. 
  

CT Abdomen and Pelvis: 
 
1. Status post cholecystectomy and right adrenalectomy. 
2. No evidence of malignancy in the abdomen and pelvis 
3. Right renal cysts and subcentimeter hypodense lesions in the 
right kidney 
that are too small to characterize but likely also represent 
cysts. 

 
Brief Hospital Course:
Ms. ___ is a pleasant ___ woman with a past medical 
history of htn, hld, and sleep apnea who presented to the ER 
after her outpatient neurologist sent her for evaluation of 
subacute gait ataxia that started in ___. 
Primarily, the patient was having frequent witnessed falls 
particularly when changing positions while walking or stopping 
from moving. 
The patient was evaluated by the neurology team and admitted to 
the general neurology service for expedited work up. On 
examination, she had under shoot on mirroring testing, nystagmus 
on lateral gaze and severe truncal and appendicular ataxia. She 
had witnessed events where she would fall to all sides when 
changing positions. 

MRI ___ with and without contrast was done and was negative 
for any changes or cerebellar pathology. 

Differential at this point was a paraneoplastic phenomenon, vs. 
autoimmune vs. hereditary ataxia. LP was attempted at bedside 
but failed due to significant lower back arthritis. ___ guided LP 
was done which was normal (wbc 1, rbc 0, protein 23, glucose 
58). In addition, a basic neuropathy and ataxia laboratory panel 
was sent including serum paraneoplastic antibodies which is 
still pending, vitamins, autoimmune work up which to date has 
been negative. CT torso was done and negative for any 
malignancy, incidentally 3mm pulmonary nodules were found only. 
The patient was discharged home with close neurologic follow up 
to review labs as they return and to continue the work up of her 
ataxia. 

The patient worked with ___ and rehab was recommended, however 
patient and her family declined. We counseled the family on ___ 
monitoring given that the patient is at extremely high risk for 
fall and injury. ___ will visit the patient in the home. 

1. Please follow up with your Neurologist Dr. ___ ___
2. Please take all your medications as prescribed
3. You will follow up with home physical therapy a few times per 
week
4. You will need ___ supervision given your high fall risk
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Hydrochlorothiazide 12.5 mg PO DAILY  
3.  TraZODone 25 mg PO QHS:PRN insomnia  
4.Rolling Walker
ICD Code: ___
Prognosis: Fair 
Provider: Dr. ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ataxia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were admitted to ___ Neurology for your difficulty with 
walking and balance that started suddenly back in ___ and has 
worsened to the point where you are falling backwards when you 
stop moving. You underwent an MRI ___ with and without 
contrast which was negative for any explanation about the cause 
of these symptoms. You had a number of blood tests done looking 
for autoimmune, cancer, inflammatory, and infectious causes of 
why you are having difficulty walking and why your nervous 
system is being affected. 
You underwent a CT scan of the torso looking for any evidence of 
malignancy /tumors which was thankfully negative. 
We had you work with physical therapy who recommended rehab, but 
given your choice, we would like you to walk at all times with a 
walker and an assistant 24 hours a day, and have physical 
therapy work with you in the home. 
You will follow up with us here in the Neurology department in 
the outpatient setting to review lab results that return and 
continue the work up to find an answer to your symptoms and 
potentially start treatment. 

It was a pleasure to care for you 

Sincerely, 
Your ___ Neurology team 

 
Followup Instructions:
___